US04668697
5-(4-Morpholinylmethyl)-2-sulfamoylbenzo[b]thiophene
To a stirred solution of morpholine (0.91 g, 10.5 mmol) and triethylamine (1.01 g, 10 mmol) in 20 ml of methanol was added 5-bromomethyl-2-sulfamoylbenzo[b]thiophene (3.06 9, 10 mmol) portionwise over 5 minutes at ambient temperature. Stirring was continued for 11/4 hours. The resulting suspension was cooled and filtered after an additional 1 hour to give 2.76 g. of yellow solid. Concentration of the filtrate in vacuo followed by trituration of the residue with water and filtering gave an additional 0.3 g of yellow solid. (Total crude yield was 98%). Recrystallization from nitromethane gave material with m.p. 221.5°-224° C.

reactant | morpholine | 10.5 mmol, 0.91 g | N1CCOCC1 | C4H9NO
reactant | triethylamine | 10 mmol, 1.01 g | C(C)N(CC)CC | C6H15N
reactant | 5-bromomethyl-2-sulfamoylbenzo[b]thiophene | 10 mmol | BrCC1=CC2=C(SC(=C2)S(N)(=O)=O)C=C1 | C9H8BrNO2S2
reactant | water | O | H2O
solvent | methanol | 20 ml | CO | CH4O
product | 5-(4-Morpholinylmethyl)-2-sulfamoylbenzo[b]thiophene | 0.3 g | N1(CCOCC1)CC1=CC2=C(SC(=C2)S(N)(=O)=O)C=C1 | C13H16N2O3S2
